US06436954B1
A solution of 1,2,3,5,10,10a-hexahydropyrrolo[1,2-b]isoquinolin-3,10-dione in THF (20 mL) was added to a suspension of LAH (7.95 mmol, 302 mg) in THF (10 mL). The mixture was refluxed for 16 hours and then quenched by the addition of H2O (0.3 ML), NaOH (15%, 0.3 mL) and additional H2O (0.9 mL). The precipitate was filtered and the filtrate was concentrated in vacuo. The residue was chromatographed on silica gel eluting with CH2Cl2/MeOH/NH4OH (150/8/1) to give cis-1,2,3,5,10,10a-hexahydropyrrolo[1,2-b]isoquinolin-10-ol as an off-white solid (178 mg): mp 131-133° C. (lit (Rigo, B.; Kolocouris, N. J. Heterocyclic. Chem. 1983, 20, 893) mp 135-136° C.); 1H NMR (300 MHz) δ 7.52 (br d, J=7.2 Hz, 1 H), 7.16-7.25 (m, 2 H), 7.02 (br d, J=6.9 Hz, 1 H), 4.46 (d, J=8.4 Hz, 1 H), 3.97 (d, J=14.7 Hz, 1 H), 3.38 (d, J=14.7 Hz, 1 H), 3.18 (td, J=8.4, 2.4 Hz, 1 H), 2.56 (br s, OH), 1.60-2.32 (m, 6 H); 13C NMR (75 MHz) δ 138.53, 134.70, 127.01, 126.71, 126.46, 125.91, 73.59, 67.50, 55.45, 54.67, 29.12, 21.55; MS (FAB), m/e 190 (100, M+H), 172 (30), 119 (15); HRMS (FAB) m/e calcd for (C12H15NO+H) 190.1232, found 190.1228.

reactant | 1,2,3,5,10,10a-hexahydropyrrolo[1,2-b]isoquinolin-3,10-dione | C1CC(N2CC=3C=CC=CC3C(C21)=O)=O | C12H11NO2
reactant | LAH | 7.95 mmol, 302 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | cis-1,2,3,5,10,10a-hexahydropyrrolo[1,2-b]isoquinolin-10-ol | 178 mg | C1CCN2CC=3C=CC=CC3[C@H]([C@@H]21)O | C12H15NO
